* gnetlist -g spice-sdb -o cap-amp2.net 555-Inverter-core-gnucap.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ../models/UA555.mod vvvvvvvv
*.
.SUBCKT UA555  34 32 30 19 23 33 1  21
*              G  TR O  R  F  TH D  V
Q4 25 2 3 QP
Q5 34 6 3 QP
Q6 6 6 8 QP
R1 9 21 4.7K
R2 3 21 830
R3 8 21 4.7K
Q7 2 33 5 QN
Q8 2 5 17 QN
Q9 6 4 17 QN
Q10 6 23 4 QN
Q11 12 20 10 QP
R4 10 21 1K
Q12 22 11 12 QP
Q13 14 13 12 QP
Q14 34 32 11 QP
Q15 14 18 13 QP
R5 14 34 100K
R6 22 34 100K
R7 17 34 10K
Q16 1 15 34 QN
Q17 15 19 31 QP
R8 18 23 5K
R9 18 34 5K
R10 21 23 5K
Q18 27 20 21 QP
Q19 20 20 21 QP
R11 20 31 5K
D1 31 24 DA
Q20 24 25 34 QN
Q21 25 22 34 QN
Q22 27 24 34 QN
R12 25 27 4.7K
R13 21 29 6.8K
Q23 21 29 28 QN
Q24 29 27 16 QN
Q25 30 26 34 QN
Q26 21 28 30 QN
D2 30 29 DA
R14 16 15 100
R15 16 26 220
R16 16 34 4.7K
R17 28 30 3.9K
Q3 2 2 9 QP
.MODEL DA D (RS=40 IS=1.0E-14 CJO=1PF)
.MODEL QP PNP (level=1 BF=20 BR=0.02 RC=4 RB=25 IS=1.0E-14 VA=50 NE=2)
+ CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=159N)
.MODEL QN NPN (level=1 IS=5.07F NF=1 BF=100 VAF=161 IKF=30M ISE=3.9P NE=2
+ BR=4 NR=1 VAR=16 IKR=45M RE=1.03 RB=4.12 RC=.412 XTB=1.5
+ CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=959P)
.ENDS
*^^^^^^^^  End of included SPICE model from ../models/UA555.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../models/irfp250n.spi vvvvvvvv
.SUBCKT irfp250n 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jan 26, 07
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=4.40097 LAMBDA=10 KP=19.5614
+CGSO=2.06568e-05 CGDO=1e-11
RS 8 3 0.059167
D1 3 1 MD
.MODEL MD D IS=1.01299e-10 RS=0.00459263 N=1.16144 BV=200
+IBV=0.00025 EG=1 XTI=3.8124 TT=1.006e-07
+CJO=1.44658e-09 VJ=3.4872 M=0.800161 FC=0.1
RDS 3 1 1e+07
RD 9 1 0.0001
RG 2 7 3.59694
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=3.11896e-09 VJ=0.968706 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 4.67816e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irfp250n
*^^^^^^^^  End of included SPICE model from ../models/irfp250n.spi ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../models/1N4148.prm vvvvvvvv
*
*******************************************
*
*1N4148
*
*NXP Semiconductors
*
*High-speed diodes
*
*
*
*
* 
*
*
*
*
*
*
*VRRM = 100V
*IFRM = 450 mA 
*trr  = 4ns
*
*
*Package pinning does not match Spice model pinning.
*Package: SOD 27
*
*Package Pin 1 : Cathode
*Package Pin 2 : Anode
*
*
*
*
*Simulator: PSPICE
*
*******************************************
*#
.SUBCKT 1N4148 1 2 
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 5.827E+9 
D1 1 2 1N4148
*
.MODEL 1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 
.ENDS
*

*^^^^^^^^  End of included SPICE model from ../models/1N4148.prm ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
D1 1 2 1N4148 
R3 Vout1 unconnected_pin-1 68  
X1 0 2 Vout1 Vcc 3 2 1 Vcc UA555
C2 0 3 0.1n  
.INCLUDE ./Simulation-Core.cmd
C1 0 2 680p  
R2 2 1 6.8K  
R1 1 Vcc 5.1K  
Vin Vcc 0 DC 12V
.end
